US07842688B2
6-(4-{4-[3-(2-Methoxybenzyloxy)propoxy]phenyl}piperidin-3-yloxymethyl)-1-(3-methoxypropyl)-3-methyl-1H-indole
The solution of 0.150 g of benzyl 3-[7-bromo-1-(3-methoxypropyl)-3-methyl-1H-indol-6-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 5.0 ml of methanol is admixed with 0.027 ml of triethylamine and hydrogenated in the presence of 30 mg of 5% Pd/C at room temperature over 16 hours. The reaction mixture is clarified by filtration and the filtrate is concentrated by evaporation. The title compound is obtained from the residue by means of flash chromatography (SiO2 60F).

reactant | benzyl 3-[7-bromo-1-(3-methoxypropyl)-3-methyl-1H-indol-6-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.150 g | BrC=1C(=CC=C2C(=CN(C12)CCCOC)C)COC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OCC1=CC=CC=C1 | C44H51BrN2O7
reactant | triethylamine | 0.027 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 5.0 ml | CO | CH4O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 6-(4-{4-[3-(2-Methoxybenzyloxy)propoxy]phenyl}piperidin-3-yloxymethyl)-1-(3-methoxypropyl)-3-methyl-1H-indole | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CNCC2)OCC2=CC=C3C(=CN(C3=C2)CCCOC)C)C=CC=C1 | C36H46N2O5
